*********************************************************************
*
* IBIS filename: sn74lvc2t45.ibs
* Component: LVC2T45_DCT
* Model: LVC2T45_IO_A_33
* Model Type: I/O
* Corner: FastStrong
* Voltage Range (V): [3.3 3.0 3.6] (Typ, Min, Max)
* Temperature Range (degC): [40.0 -40.0 100.0] (Typ, Min, Max)
* SPICE subcircuit model created with pybis2spice version 1.0
* For more info, visit https://github.com/kamratia1/pybis2spice/
*
*********************************************************************

.SUBCKT LVC2T45_IO_A_33-Input-FastStrong IN

.param C_pkg = 2.42e-13
.param L_pkg = 1.924e-09
.param R_pkg = 0.031
.param C_comp = 7.5e-12

R1 IN MID {R_pkg}
L1 DIE MID {L_pkg}
C1 IN 0 {C_pkg}
C2 DIE 0 {C_comp}

V2 GND_CLAMP_REF 0 0
B2 DIE GND_CLAMP_REF I = table(V(DIE), -5.5, -1.0162, -5.245, -0.95842, -5.005, -0.90418, -4.775, -0.85229, -4.545, -0.8005, -4.335, -0.75331, -4.115, -0.70399, -3.905, -0.65702, -3.71, -0.61353, -3.52, -0.57127, -3.335, -0.53024, -3.24, -0.50923, -3.155, -0.49045, -3.065, -0.47061, -2.985, -0.45301, -2.895, -0.43324, -2.815, -0.41571, -2.735, -0.39821, -2.655, -0.38075, -2.575, -0.36333, -2.505, -0.34812, -2.43, -0.33187, -2.36, -0.31674, -2.285, -0.30057, -2.215, -0.28552, -2.145, -0.27051, -2.075, -0.25556, -2.01, -0.24172, -1.94, -0.22686, -1.875, -0.21313, -1.815, -0.20049, -1.755, -0.18791, -1.695, -0.17539, -1.635, -0.16292, -1.58, -0.15156, -1.525, -0.14025, -1.475, -0.13003, -1.425, -0.11987, -1.375, -0.10978, -1.33, -0.10076, -1.285, -0.091816, -1.24, -0.082952, -1.2, -0.075153, -1.165, -0.068401, -1.13, -0.06173, -1.095, -0.055159, -1.065, -0.049626, -1.04, -0.045102, -1.015, -0.040681, -1.0, -0.03809, -0.99, -0.036394, -0.98, -0.034726, -0.97, -0.033091, -0.96, -0.031493, -0.95, -0.029939, -0.94, -0.028435, -0.93, -0.02699, -0.92, -0.025612, -0.915, -0.024952, -0.905, -0.023695, -0.9, -0.0231, -0.89, -0.021984, -0.88, -0.02097, -0.87, -0.020056, -0.86, -0.019235, -0.855, -0.018855, -0.845, -0.018148, -0.83, -0.017186, -0.82, -0.01659, -0.815, -0.016301, -0.805, -0.015736, -0.8, -0.015459, -0.79, -0.01491, -0.785, -0.014639, -0.775, -0.014099, -0.765, -0.013561, -0.75, -0.012755, -0.735, -0.011947, -0.725, -0.011405, -0.715, -0.010859, -0.705, -0.01031, -0.69, -0.009478, -0.675, -0.0086406, -0.66, -0.0078048, -0.645, -0.006981, -0.625, -0.0059204, -0.6, -0.0046827, -0.575, -0.0035642, -0.555, -0.0027641, -0.54, -0.0022227, -0.525, -0.0017337, -0.51, -0.0012996, -0.495, -0.00092284, -0.48, -0.00060615, -0.465, -0.00035273, -0.45, -0.00016612, -0.435, -5.0355e-05, -0.42, -9.9733e-06, -0.295, -5.5463e-07, 3.3, 3.4213e-10)

.ENDS
