*********************************************************************
*
* IBIS filename: sn74lvc2t45.ibs
* Component: LVC2T45_DCT
* Model: LVC2T45_IO_A_33
* Model Type: I/O
* Corner: Typical
* Voltage Range (V): [3.3 3.0 3.6] (Typ, Min, Max)
* Temperature Range (degC): [40.0 -40.0 100.0] (Typ, Min, Max)
* SPICE subcircuit model created with pybis2spice version 1.0
* For more info, visit https://github.com/kamratia1/pybis2spice/
*
*********************************************************************

.SUBCKT LVC2T45_IO_A_33-Input-Typical IN

.param C_pkg = 2.31e-13
.param L_pkg = 1.796e-09
.param R_pkg = 0.029
.param C_comp = 6.32e-12

R1 IN MID {R_pkg}
L1 DIE MID {L_pkg}
C1 IN 0 {C_pkg}
C2 DIE 0 {C_comp}

V2 GND_CLAMP_REF 0 0
B2 DIE GND_CLAMP_REF I = table(V(DIE), -5.5, -0.89775, -5.245, -0.84697, -5.005, -0.79925, -4.775, -0.75359, -4.545, -0.70802, -4.335, -0.66648, -4.115, -0.62304, -3.905, -0.58168, -3.71, -0.54335, -3.52, -0.50611, -3.335, -0.46994, -3.24, -0.4514, -3.155, -0.43485, -3.065, -0.41735, -2.985, -0.40182, -2.895, -0.38437, -2.815, -0.3689, -2.735, -0.35345, -2.655, -0.33804, -2.575, -0.32266, -2.505, -0.30923, -2.43, -0.29487, -2.36, -0.2815, -2.285, -0.26722, -2.215, -0.25392, -2.145, -0.24066, -2.075, -0.22745, -2.01, -0.21521, -1.94, -0.20208, -1.875, -0.18994, -1.815, -0.17877, -1.755, -0.16765, -1.695, -0.15658, -1.635, -0.14556, -1.58, -0.13552, -1.525, -0.12553, -1.475, -0.11649, -1.425, -0.10752, -1.375, -0.098605, -1.33, -0.090642, -1.285, -0.082742, -1.24, -0.074914, -1.2, -0.068025, -1.165, -0.062058, -1.13, -0.056156, -1.095, -0.050331, -1.065, -0.045408, -1.04, -0.041364, -1.015, -0.037383, -1.0, -0.035028, -0.99, -0.033474, -0.98, -0.031934, -0.97, -0.030409, -0.96, -0.028901, -0.95, -0.02741, -0.94, -0.025938, -0.93, -0.024487, -0.92, -0.023059, -0.915, -0.022355, -0.905, -0.020966, -0.9, -0.020283, -0.89, -0.01894, -0.88, -0.017632, -0.87, -0.016362, -0.86, -0.015136, -0.855, -0.01454, -0.845, -0.013388, -0.83, -0.011767, -0.82, -0.010766, -0.815, -0.010292, -0.805, -0.0093985, -0.8, -0.0089804, -0.79, -0.0082024, -0.785, -0.0078428, -0.775, -0.0071811, -0.765, -0.0065929, -0.75, -0.0058339, -0.735, -0.0051975, -0.725, -0.0048266, -0.715, -0.0044888, -0.705, -0.0041774, -0.69, -0.0037482, -0.675, -0.0033532, -0.66, -0.0029837, -0.645, -0.0026349, -0.625, -0.0021971, -0.6, -0.0016908, -0.575, -0.0012306, -0.555, -0.00089907, -0.54, -0.00067474, -0.525, -0.00047454, -0.51, -0.0003026, -0.495, -0.00016436, -0.48, -6.6684e-05, -0.465, -1.7592e-05, -0.45, -1.012e-05, -0.435, -6.4641e-06, -0.42, -4.0976e-06, -0.295, -8.8703e-08, 3.3, 2.6731e-11)

.ENDS
