*********************************************************************
*
* IBIS filename: sn74lvc2t45.ibs
* Component: LVC2T45_DCT
* Model: LVC2T45_IO_A_33
* Model Type: I/O
* Corner: WeakSlow
* Voltage Range (V): [3.3 3.0 3.6] (Typ, Min, Max)
* Temperature Range (degC): [40.0 -40.0 100.0] (Typ, Min, Max)
* SPICE subcircuit model created with pybis2spice version 1.0
* For more info, visit https://github.com/kamratia1/pybis2spice/
*
*********************************************************************

.SUBCKT LVC2T45_IO_A_33-Input-WeakSlow IN

.param C_pkg = 2.21e-13
.param L_pkg = 1.666e-09
.param R_pkg = 0.028
.param C_comp = 5.51e-12

R1 IN MID {R_pkg}
L1 DIE MID {L_pkg}
C1 IN 0 {C_pkg}
C2 DIE 0 {C_comp}

V2 GND_CLAMP_REF 0 0
B2 DIE GND_CLAMP_REF I = table(V(DIE), -5.5, -0.8324, -5.245, -0.78558, -5.005, -0.74158, -4.775, -0.69948, -4.545, -0.65743, -4.335, -0.61911, -4.115, -0.57904, -3.905, -0.54087, -3.71, -0.5055, -3.52, -0.47111, -3.335, -0.43772, -3.24, -0.42061, -3.155, -0.40532, -3.065, -0.38915, -2.985, -0.37481, -2.895, -0.3587, -2.815, -0.3444, -2.735, -0.33014, -2.655, -0.31589, -2.575, -0.30168, -2.505, -0.28927, -2.43, -0.27601, -2.36, -0.26366, -2.285, -0.25045, -2.215, -0.23817, -2.145, -0.22591, -2.075, -0.2137, -2.01, -0.20239, -1.94, -0.19026, -1.875, -0.17904, -1.815, -0.16872, -1.755, -0.15845, -1.695, -0.14822, -1.635, -0.13804, -1.58, -0.12876, -1.525, -0.11954, -1.475, -0.1112, -1.425, -0.10291, -1.375, -0.094686, -1.33, -0.087338, -1.285, -0.080049, -1.24, -0.072828, -1.2, -0.066472, -1.165, -0.060966, -1.13, -0.055519, -1.095, -0.050138, -1.065, -0.045586, -1.04, -0.04184, -1.015, -0.038144, -1.0, -0.035953, -0.99, -0.034504, -0.98, -0.033065, -0.97, -0.031637, -0.96, -0.03022, -0.95, -0.028816, -0.94, -0.027424, -0.93, -0.026046, -0.92, -0.024683, -0.915, -0.024008, -0.905, -0.022669, -0.9, -0.022005, -0.89, -0.020693, -0.88, -0.0194, -0.87, -0.018129, -0.86, -0.01688, -0.855, -0.016265, -0.845, -0.015055, -0.83, -0.013294, -0.82, -0.012159, -0.815, -0.011605, -0.805, -0.010525, -0.8, -0.0099997, -0.79, -0.0089818, -0.785, -0.0084899, -0.775, -0.007543, -0.765, -0.0066486, -0.75, -0.0054144, -0.735, -0.0043203, -0.725, -0.0036737, -0.715, -0.003095, -0.705, -0.0025841, -0.69, -0.0019405, -0.675, -0.0014324, -0.66, -0.0010415, -0.645, -0.00074719, -0.625, -0.00047211, -0.6, -0.00026811, -0.575, -0.0001772, -0.555, -0.00013875, -0.54, -0.00011762, -0.525, -0.0001007, -0.51, -8.6632e-05, -0.495, -7.4556e-05, -0.48, -6.3917e-05, -0.465, -5.4374e-05, -0.45, -4.5727e-05, -0.435, -3.7875e-05, -0.42, -3.0781e-05, -0.295, -1.9149e-06, 3.3, 9.919e-08)

.ENDS
