*********************************************************************
*
* IBIS filename: hct1g08.ibs
* Component: 74HCT1G08_GV
* Model: HCT1G08_IN_50
* Model Type: Input
* Corner: WeakSlow
* Voltage Range (V): [5.0 4.5 5.5] (Typ, Min, Max)
* Temperature Range (degC): [35.0 -30.0 95.0] (Typ, Min, Max)
* SPICE subcircuit model created with pybis2spice version 1.0
* For more info, visit https://github.com/kamratia1/pybis2spice/
*
*********************************************************************

.SUBCKT HCT1G08_IN_50-Input-WeakSlow IN

.param C_pkg = 2.208e-13
.param L_pkg = 1.3e-09
.param R_pkg = 0.08186
.param C_comp = 1.2578e-12

R1 IN MID {R_pkg}
L1 DIE MID {L_pkg}
C1 IN 0 {C_pkg}
C2 DIE 0 {C_comp}

V1 PWR_CLAMP_REF 0 4.5
B1 DIE PWR_CLAMP_REF I = table(V(DIE), 0.0, -7.8067e-13, 0.10099999999999998, 5.5905e-10, 0.20199999999999996, 5.8457e-10, 0.30299999999999994, 5.8822e-10, 0.4039999999999999, 5.9105e-10, 0.5051000000000001, 5.939e-10, 0.6061000000000001, 5.9678e-10, 0.7071000000000001, 5.997e-10, 0.8081, 6.0263e-10, 0.9091, 6.0559e-10, 1.0101, 6.0857e-10, 1.1111, 6.1156e-10, 1.2121, 6.1457e-10, 1.3131, 6.1759e-10, 1.4141, 6.2064e-10, 1.5152, 6.2369e-10, 1.6162, 6.2676e-10, 1.7172, 6.2985e-10, 1.8182, 6.3295e-10, 1.9192, 6.3606e-10, 2.0202, 6.392e-10, 2.1212, 6.4234e-10, 2.2222, 6.455e-10, 2.3232, 6.4868e-10, 2.4242, 6.5187e-10, 2.5253, 6.5508e-10, 2.6263, 6.583e-10, 2.7273, 6.6154e-10, 2.8283, 6.648e-10, 2.9293, 6.6807e-10, 3.0303, 6.7136e-10, 3.1313, 6.7467e-10, 3.2323, 6.78e-10, 3.3333, 6.8134e-10, 3.4343, 6.8471e-10, 3.53535, 6.8811e-10, 3.63636, 6.9152e-10, 3.73737, 6.9497e-10, 3.83838, 6.9844e-10, 3.93939, 7.0194e-10, 4.0404, 7.0548e-10, 4.14141, 7.0905e-10, 4.24242, 7.1265e-10, 4.34343, 7.163e-10, 4.444444, 7.2007e-10, 4.545455, 7.2493e-10, 4.64646, 7.4689e-10, 4.74747, 1.1889e-09, 4.84848, 1.1772e-08, 4.94949, 2.6693e-07, 5.05051, 6.2713e-06, 5.15152, 0.00010211, 5.25253, 0.00049295, 5.35354, 0.0010751, 5.45455, 0.0017289, 5.5556, 0.0024145, 5.6566, 0.0031167, 5.7576, 0.0038284, 5.8586, 0.004546, 5.9596, 0.0052682, 6.0606, 0.0059965, 6.1616, 0.0067308, 6.2626, 0.0074686, 6.3636, 0.008209, 6.4646, 0.0089514, 6.5657, 0.0096954, 6.6667000000000005, 0.010441, 6.7677, 0.011188, 6.8687000000000005, 0.011935, 6.9697, 0.012684, 7.0707, 0.013433, 7.1716999999999995, 0.014184, 7.2727, 0.014935, 7.3736999999999995, 0.015686, 7.4747, 0.016438, 7.5758, 0.017191, 7.6768, 0.017944, 7.7778, 0.018697, 7.8788, 0.019451, 7.9798, 0.020205, 8.0808, 0.020959, 8.181799999999999, 0.021714, 8.2828, 0.022469, 8.3838, 0.023225, 8.4848, 0.02398, 8.585899999999999, 0.024736, 8.6869, 0.025492, 8.7879, 0.026248, 8.8889, 0.027005, 8.989899999999999, 0.027762, 9.090900000000001, 0.028518, 9.1919, 0.029275, 9.2929, 0.030033, 9.3939, 0.03079, 9.494900000000001, 0.031547, 9.596, 0.032305, 9.697, 0.033063, 9.798, 0.03382, 9.899000000000001, 0.034578, 10.0, 0.035336)
V2 GND_CLAMP_REF 0 0
B2 DIE GND_CLAMP_REF I = table(V(DIE), -5.5, -1.9744, -4.6, -1.5919, -3.7, -1.2103, -2.8, -0.83014, -1.9, -0.45317, -1.0, -0.090056, -0.9875, -0.085426, -0.975, -0.080831, -0.9625, -0.076273, -0.95, -0.071756, -0.9375, -0.067285, -0.925, -0.062863, -0.9125, -0.058496, -0.9, -0.05419, -0.8875, -0.049952, -0.875, -0.045791, -0.8625, -0.041715, -0.85, -0.037736, -0.8375, -0.033866, -0.825, -0.030121, -0.8125, -0.026516, -0.8, -0.023073, -0.7875, -0.019813, -0.775, -0.01676, -0.7625, -0.013942, -0.75, -0.011383, -0.7375, -0.0091078, -0.725, -0.0071336, -0.7125, -0.0054675, -0.7, -0.0041036, -0.6875, -0.0030216, -0.675, -0.002189, -0.6625, -0.0015658, -0.65, -0.0011101, -0.6375, -0.00078305, -0.625, -0.00055155, -0.6125, -0.00038921, -0.6, -0.00027597, -0.5875, -0.00019715, -0.575, -0.00014223, -0.5625, -0.00010382, -0.55, -7.6814e-05, -0.5375, -5.7658e-05, -0.525, -4.3931e-05, -0.5125, -3.395e-05, -0.5, -2.66e-05, -0.4875, -2.111e-05, -0.475, -1.6947e-05, -0.4625, -1.3741e-05, -0.45, -1.1235e-05, -0.4375, -9.2481e-06, -0.425, -7.6542e-06, -0.4125, -6.3615e-06, -0.4, -5.3037e-06, -0.3875, -4.4317e-06, -0.375, -3.7085e-06, -0.3625, -3.1061e-06, -0.35, -2.6023e-06, -0.3375, -2.1798e-06, -0.325, -1.8246e-06, -0.3125, -1.5249e-06, -0.3, -1.2708e-06, -0.2875, -1.0531e-06, -0.275, -8.6127e-07, -0.2625, -6.831e-07, -0.25, -5.1709e-07, -0.2375, -3.7869e-07, -0.225, -2.732e-07, -0.2125, -1.9571e-07, -0.2, -1.3965e-07, -0.1875, -9.9396e-08, -0.175, -7.0607e-08, -0.1625, -5.0072e-08, -0.15, -3.5451e-08, -0.1375, -2.5052e-08, -0.125, -1.766e-08, -0.1125, -1.2408e-08, -0.1, -8.6752e-09, -0.0875, -6.0212e-09, -0.075, -4.1323e-09, -0.0625, -2.7856e-09, -0.05, -1.823e-09, -0.0375, -1.1322e-09, -0.025, -6.3367e-10, -0.0125, -2.7079e-10, 0.0, 0.0, 0.61111, 0.0, 1.2222, 0.0, 1.8333, 0.0, 2.4444, 0.0, 3.0556, 0.0, 3.6667, 0.0, 4.2778, 0.0, 4.8889, 0.0, 5.5, 0.0)

.ENDS
