*********************************************************************
*
* IBIS filename: lvc1g07.ibs
* Component: 74LVC1G07_GF
* Model: LVC1G07_XGIN_33
* Model Type: Input
* Corner: Typical
* Voltage Range (V): [3.3 3.0 3.6] (Typ, Min, Max)
* Temperature Range (degC): [50.0 -10.0 105.0] (Typ, Min, Max)
* SPICE subcircuit model created with pybis2spice version 1.0
* For more info, visit https://github.com/kamratia1/pybis2spice/
*
*********************************************************************

.SUBCKT LVC1G07_XGIN_33-Input-Typical IN

.param C_pkg = 1.209e-13
.param L_pkg = 6.07e-10
.param R_pkg = 0.03978
.param C_comp = 2.96e-12

R1 IN MID {R_pkg}
L1 DIE MID {L_pkg}
C1 IN 0 {C_pkg}
C2 DIE 0 {C_comp}

V2 GND_CLAMP_REF 0 0
B2 DIE GND_CLAMP_REF I = table(V(DIE), -5.5, -2.277, -5.0, -2.029, -4.5, -1.781, -4.0, -1.534, -3.5, -1.286, -3.0, -1.039, -2.5, -0.792833, -2.0, -0.547734, -1.5, -0.305416, -1.479, -0.295154, -1.457, -0.284907, -1.436, -0.274676, -1.414, -0.264464, -1.393, -0.25427, -1.371, -0.244098, -1.35, -0.233948, -1.329, -0.223822, -1.307, -0.213723, -1.286, -0.203652, -1.264, -0.193613, -1.243, -0.183609, -1.221, -0.173643, -1.2, -0.163719, -1.179, -0.153842, -1.157, -0.144018, -1.136, -0.134254, -1.114, -0.124557, -1.093, -0.114937, -1.071, -0.105406, -1.05, -0.095978, -1.029, -0.086671, -1.007, -0.077507, -0.985714, -0.068515, -0.964286, -0.059732, -0.942857, -0.051208, -0.921429, -0.043009, -0.9, -0.035222, -0.878571, -0.027966, -0.857143, -0.021397, -0.835714, -0.015705, -0.814286, -0.011079, -0.792857, -0.00763, -0.771429, -0.00529, -0.75, -0.003814, -0.728571, -0.002901, -0.707143, -0.00231, -0.685714, -0.001896, -0.664286, -0.001579, -0.642857, -0.001321, -0.621429, -0.001102, -0.6, -0.000913769, -0.578571, -0.000751513, -0.557143, -0.000612191, -0.535714, -0.000493611, -0.514286, -0.000393809, -0.492857, -0.000310847, -0.471429, -0.000241686, -0.45, -0.000184723, -0.428571, -0.000139668, -0.407143, -0.000104487, -0.385714, -7.7328e-05, -0.364286, -5.6525e-05, -0.342857, -4.0515e-05, -0.321429, -2.7413e-05, -0.3, -1.5963e-05, -0.278571, -8.332e-06, -0.257143, -4.142e-06, -0.235714, -1.994e-06, -0.214286, -9.36019e-07, -0.192857, -4.30341e-07, -0.171429, -1.94338e-07, -0.15, -8.637e-08, -0.128571, -3.7804e-08, -0.107143, -1.6273e-08, -0.085714, -6.849e-09, -0.064286, -2.774e-09, -0.042857, -1.033e-09, -0.021429, -3.00882e-10, 0.0, 0.0, 0.5, 0.0, 1.0, 0.0, 1.5, 0.0, 2.0, 0.0, 2.5, 0.0, 3.0, 0.0, 3.5, 0.0, 4.0, 0.0, 4.5, 0.0, 5.0, 0.0, 5.5, 0.0)

.ENDS
